US07691882B2
(6-(Pyridin-2-yloxymethyl)-pyridin-3-yl)-acetohydroximoyl chloride
To a methanol (5 mL) solution of 5-(2-nitro-ethyl)-2-(pyridin-2-yloxymethyl)-pyridine (93 mg, 0.36 mmol) described in Manufacturing Example 154-1-7 was added lithium methoxide (27 mg, 0.72 mmol), which was stirred for 5 minutes at room temperature. The reaction mixture was concentrated under a reduced pressure. To a suspension of this residue in tetrahydrofuran (3 mL) and methylene chloride (3 mL) was added titanium (IV) tetrachloride (87 μL, 0.79 mmol) under nitrogen atmosphere at −78° C., which was stirred for 2 hours at 0° C. More titanium (IV) tetrachloride (50 μL, 0.46 mmol) was added at −78° C., which was stirred for 3 hours at 0° C. Water was added to the reaction mixture at 0° C., which was then extracted with ethyl acetate. The organic layer was separated, washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and then filtered. The filtrate was concentrated under a reduced pressure to obtain the title compound (24 mg). This compound was used in the following reaction without any further purification.

reactant | methanol | 5 mL | CO | CH4O
reactant | 5-(2-nitro-ethyl)-2-(pyridin-2-yloxymethyl)-pyridine | 0.36 mmol, 93 mg | [N+](=O)([O-])CCC=1C=CC(=NC1)COC1=NC=CC=C1 | C13H13N3O3
reactant | lithium methoxide | 0.72 mmol, 27 mg | C[O-].[Li+]
reactant | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
catalyst | titanium (IV) tetrachloride | 0.79 mmol, 87 μL | [Ti](Cl)(Cl)(Cl)Cl
catalyst | titanium (IV) tetrachloride | 0.46 mmol, 50 μL | [Ti](Cl)(Cl)(Cl)Cl
solvent | Water | O | H2O
product | (6-(Pyridin-2-yloxymethyl)-pyridin-3-yl)-acetohydroximoyl chloride | 24 mg | N1=C(C=CC=C1)OCC1=CC=C(C=N1)CC(=NO)Cl | C13H12ClN3O2
